US04381412
20.5 g (0.1 mol) of 3-bromo-4-fluoro-benzyl alcohol were added to a solution of 12.3 g (0.11 mol) of potassium tert.-butylate in 200 ml of tetrahydrofuran at 20° C. During this addition, the temperature increased to about 40° C. The mixture was subsequently stirred at 20° C. for about 1 hour and 12.6 g (0.1 mol) of benzyl chloride were then added dropwise to the reaction mixture. Thereafter, the mixture was heated under reflux for one hour. It was then cooled. About 200 ml of water and 50 ml of concentrated hydrochloric acid were added to the reaction mixture and the mixture was extracted twice with 200 ml of diethyl ether each time. The combined extracts were concentrated, dried over sodium sulphate and then subjected to fractional distillation. 14.2 g (48.2% of theory) of 3-bromo-4-fluoro-benzyl benzyl ether were obtained in the form of a light yellow oil of boiling point 165° C./7 mbars.

reactant | 3-bromo-4-fluoro-benzyl alcohol | 0.1 mol, 20.5 g | BrC=1C=C(CO)C=CC1F | C7H6BrFO
reactant | benzyl chloride | 0.1 mol, 12.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-bromo-4-fluoro-benzyl benzyl ether | 14.2 g, 48.2% | C(C1=CC=CC=C1)OCC1=CC(=C(C=C1)F)Br | C14H12BrFO
